US05110956
(2) Synthesis of 5,6-methylenedioxyindane-2-ol
A solution of 9.0 g of 5,6-methylenedioxyindene in 23 ml of tetrahydrofuran was cooled to 0° C. in a nitrogen atmosphere. A solution of 2.2 ml of 10.0 M borane/methyl sulfide complex in 5 ml of tetrahydrofuran was added dropwise thereto. The temperature of the mixture was elevated from 0° C. to room temperature over 4 h and then 1.8 ml of water was added dropwise thereto. 7.4 ml of a 3 M aqueous sodium hydroxide solution and then 5.5 ml of a 35% aqueous hydrogen peroxide solution were added thereto under cooling with ice and the mixture was stirred at room temperature overnight. The reaction mixture was diluted with ethyl acetate, washed with an aqueous common salt solution and dried over magnesium sulfate. The solvent was distilled off and the residue was crystallized from ethyl acetate to obtain 6.4 g of the intended compound in the form of white crystals.

reactant | 5,6-methylenedioxyindene | 9.0 g | C1OC=2C=C3C=CCC3=CC2O1 | C10H8O2
reactant | water | 1.8 ml | O | H2O
reactant | sodium hydroxide | 3 M | [OH-].[Na+]
reactant | hydrogen peroxide | OO | H2O2
solvent | tetrahydrofuran | 23 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 5,6-methylenedioxyindane-2-ol | 6.4 g | C1OC=2C=C3CC(CC3=CC2O1)O | C10H10O3
